US08119806B2
Step A: 5,6-Bis(nitrooxy)hexyl 4-nitrophenyl carbonate
To the solution of 6-hydroxyhexane-1,2-diyl dinitrate (150 mg, 0.67 mmol) in CH2Cl2 (15 mL) at rt was added 4-nitrophenyl chloroformate (202 mg, 1.00 mmol) and followed by pyridine (159 mg, 2.01 mmol). The mixture was stirred at rt over night and diluted with H2O. The mixture was extracted with CH2Cl2 and the organic layer was washed with brine, dried over MgSO4 and concentrated. The residue was purified by flash chromatography (Biotage SP1; column 25M; TLC method: n-hexane/ethyl acetate 7/3; Rf=0.35), affording product (210 mg, yield 81%).

reactant | 6-hydroxyhexane-1,2-diyl dinitrate | 0.67 mmol, 150 mg | [N+](=O)(OCC(CCCCO)O[N+](=O)[O-])[O-] | C6H12N2O7
reactant | 4-nitrophenyl chloroformate | 1.00 mmol, 202 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | pyridine | 2.01 mmol, 159 mg | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | O | H2O
product | 5,6-Bis(nitrooxy)hexyl 4-nitrophenyl carbonate | 210 mg, yield 81% | C(OCCCCC(CO[N+](=O)[O-])O[N+](=O)[O-])(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C13H15N3O11
